US07875745B2
methyl4-(2-methoxy-2-oxoethyl)-1H-pyrrole-3-carboxylate
To a lithium bis(trimethylsilyl)amide (1M; tetrahydrofuran solution) (21 ml), a tetrahydrofuran (100 ml) solution of p-toluenesulfonylmethylisocyanide (4.04 g) was added dropwise at −78° C., and the mixture was stirred for 30 minutes. Successively, a tetrahydrofuran (20 ml) solution of dimethyl glutaconate (3.78 g) was added dropwise thereto, followed by stirring while raising the temperature to room temperature for 2 hours. The reaction mixture was concentrated, and the residue was washed with water and 1N hydrochloric acid successively, followed by extraction with ethyl acetate. The organic layer was washed with 1N hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution, water and brine successively, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:2) to give the title compound (2.11 g) having the following physical properties.

reactant | lithium bis(trimethylsilyl)amide | 1M, 21 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonylmethylisocyanide | 4.04 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | dimethyl glutaconate | 3.78 g | C(C=CCC(=O)OC)(=O)OC | C7H10O4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | methyl4-(2-methoxy-2-oxoethyl)-1H-pyrrole-3-carboxylate | 2.11 g | COC(=O)C1=CNC=C1CC(=O)OC | C9H11NO4
